US05109013
3,4-Dihydro-1,4-dimethyl-2-[2-[4-(2-pyridinyl)-1-piperazinyl)ethyl]-1H-[1,3,5]-triazepino[3,2-a]benzimidazol-5(2H)-one hemihydrate
To 50 mL of toluene was added 5.0 g (0.0171 mol) of 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one, 5.58 g (0.034 mol) of 2-(2-pyridyl)piperazine, and 3.4 g (0.034 mol) of triethylamine, and the entire reaction mixture heated to reflux. After 2 days, 1.5 g (0.009 mol) of 1-(2-pyridinyl)piperazine was added and reflux continued for 24 hours. The reaction mixture was washed with 2×50 mL of 1N NaOH, dried over Na2SO4, filtered and concentrated by rotary evaporation. The residue was subjected to preparative HPLC using silica gel as the stationary phase and eluting with 5% triethylamine in acetone. Like fraction were combined affording ~4.0 g (55%) of a glass.

reactant | 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 0.0171 mol, 5.0 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
reactant | 2-(2-pyridyl)piperazine | 0.034 mol, 5.58 g | N1=C(C=CC=C1)C1NCCNC1 | C9H13N3
reactant | triethylamine | 0.034 mol, 3.4 g | C(C)N(CC)CC | C6H15N
reactant | 1-(2-pyridinyl)piperazine | 0.009 mol, 1.5 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dihydro-1,4-dimethyl-2-[2-[4-(2-pyridinyl)-1-piperazinyl)ethyl]-1H-[1,3,5]-triazepino[3,2-a]benzimidazol-5(2H)-one hemihydrate | ~4.0 g, 55% | O.CN1C(CN(C(N2C1=NC1=C2C=CC=C1)=O)C)CCN1CCN(CC1)C1=NC=CC=C1.CN1C(CN(C(N2C1=NC1=C2C=CC=C1)=O)C)CCN1CCN(CC1)C1=NC=CC=C1 | InChI=1S/2C23H29N7O.H2O/c2*1-26-17-18(10-12-28-13-15-29(16-14-28)21-9-5-6-11-24-21)27(2)22-25-19-7-3-4-8-20(19)30(22)23(26)31;/h2*3-9,11,18H,10,12-17H2,1-2H3;1H2
